US06316482B1
To a solution of 4-[N-[1-[(tert-butyl)oxycarbonyl]benzimidazol-4-yl]carbamoyl]-N-[2-[4,4-dimethyl(2,5-oxazolinyl)]phenyl]-3-methoxy-N-methylbenzamide (400 mg) in dichloromethane (10 ml) was added trifluoroacetic acid (4 ml). The mixture was stirred at ambient temperature for 3 hours. The reaction mixture was concentrated in vacuo and the residue was diluted with a mixture of chloroform and saturated aqueous sodium bicarbonate solution. The organic layer was separated and washed with water and brine. The solution was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified by column chromatography (chloroform:methanol=100:3) to give 4-[N-(1H-benzimidazol-4-yl)carbamoyl]-N-[2-[4,4-dimethyl(2,5-oxazolinyl)]phenyl]-3-methoxy-N-methylbenzamide (290 mg).

reactant | 4-[N-[1-[(tert-butyl)oxycarbonyl]benzimidazol-4-yl]carbamoyl]-N-[2-[4,4-dimethyl(2,5-oxazolinyl)]phenyl]-3-methoxy-N-methylbenzamide | 400 mg | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC=C2NC(=O)C2=C(C=C(C(=O)N(C)C1=C(C=CC=C1)C=1OCC(N1)(C)C)C=C2)OC | C33H35N5O6
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[N-(1H-benzimidazol-4-yl)carbamoyl]-N-[2-[4,4-dimethyl(2,5-oxazolinyl)]phenyl]-3-methoxy-N-methylbenzamide | 290 mg | N1C=NC2=C1C=CC=C2NC(=O)C2=C(C=C(C(=O)N(C)C1=C(C=CC=C1)C=1OCC(N1)(C)C)C=C2)OC | C28H27N5O4
